US07388005B2
1.2 3-Chloro-2-(pyrimidin-4-yl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one
A suspension of 3.0 g (13.09 mmol) of 2-(pyrimidin-4-yl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one in 60 ml of acetic acid was treated with 1.75 g (15.7 mmol) of N-chlorosuccinimide. The reaction mixture was heated at 90° C. during 18 h.

reactant | 2-(pyrimidin-4-yl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one | 13.09 mmol, 3.0 g | N1=CN=C(C=C1)C=1N=C2N(C(C1)=O)CCCN2 | C11H11N5O
reactant | N-chlorosuccinimide | 15.7 mmol, 1.75 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 3-Chloro-2-(pyrimidin-4-yl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one | ClC1=C(N=C2N(C1=O)CCCN2)C2=NC=NC=C2 | C11H10ClN5O
